US06953806B2
800 mg (21 mmol) of lithium aluminium hydride were added within 10 minutes to a solution of 4.5 g (15.87 mmol) crude trans-methyl-{2-[4-(2-oxo-ethyl)-cyclohexyl]-ethyl}-carbamic acid tert-butyl ester in 40 ml of tetrahydrofuran. After stirring for 3 hours at room temperature, 40 ml of brine was dropped carefully into the reaction mixture. The reaction mixture was stirred for another 20 minutes at room temperature and then partitioned between ether, 1N HCl and water. After drying of the ether phase over sodium sulfate and concentration under reduced pressure, 4.26 g of trans-{2-[4-(2-hydroxy-ethyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester was obtained, which was used without further purification.

reactant | lithium aluminium hydride | 21 mmol, 800 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-methyl-{2-[4-(2-oxo-ethyl)-cyclohexyl]-ethyl}-carbamic acid tert-butyl ester | 15.87 mmol, 4.5 g | C(C)(C)(C)OC(N(CC[C@@H]1CC[C@H](CC1)CC=O)C)=O | C16H29NO3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | brine | 40 ml | [Cl-].[Na+].O
product | trans-{2-[4-(2-hydroxy-ethyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 4.26 g | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CCO)=O | C16H31NO3
